US07351858B2
[4-(2-{[2-(methoxycarbonyl)phenyl]thio}ethyl)phenoxy]acetic acid (0.200 g, 0.577 mmol) was dissolved in DMF (10 ml), N-benzyl-N-ethylamine (0.086 g, 0.635 mmol) was added and the mixture was cooled to 0° C. N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (0.204 g, 0.635 mmol) and N-ethyl-N,N-diisopropylamine (0.157 g, 1.212 mmol) was added. The solution was stirred over night at room temperature. Water (100 ml) was added and the water phase was extracted with diethyl ether (3×20 ml). The organic phase was washed with Na2CO3 (3×20 ml, aq) and HCl (0.5 M, 2×, 10 ml). The organic layer was dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by flash chromatography (started with isocratic heptane/EtOAc 30/70 and then the EtOAc concentration was increased to 100%, (silica gel 60 0.004-0.063 mm). The product containing fractions were pooled and the solvent was removed by evaporation to give 0.137 g of methyl 2-{[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)-ethyl]thio}benzoate (yield 51.2%).

reactant | [4-(2-{[2-(methoxycarbonyl)phenyl]thio}ethyl)phenoxy]acetic acid | 0.577 mmol, 0.200 g | COC(=O)C1=C(C=CC=C1)SCCC1=CC=C(OCC(=O)O)C=C1 | C18H18O5S
reactant | N-benzyl-N-ethylamine | 0.635 mmol, 0.086 g | C(C1=CC=CC=C1)NCC | C9H13N
reactant | N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 0.635 mmol, 0.204 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyl-N,N-diisopropylamine | 1.212 mmol, 0.157 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Water | 100 ml | O | H2O
product | methyl 2-{[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)-ethyl]thio}benzoate | 0.137 g, yield 51.2% | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)CCSC1=C(C(=O)OC)C=CC=C1)=O)CC | C27H29NO4S
